US07829560B2
3-Fluoro-N-(4-{[2-(4-methylpiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide (Compound B381).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 4-methylpiperidine according to conditions described in general procedure C. Mp: 145-146° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.86 (d, J=6.0 Hz, 3 H), 1.50-1.62 (m, 1 H), 3.30 (m, 8 H), 6.19-6.21 (m, 1 H), 6.99 (d, J=11.0 Hz, 1 H), 7.19 (d, J=9.0 Hz, 1 H), 7.41-7.43 (m, 1 H), 7.49 (s, 1N), 7.57-7.62 (m, 3 H), 7.85 (d, J=8.2 Hz, 1 H), 7.99 (d, J=8.5 Hz, 1 H), 8.25-8.27 (m, 1 H), 10.46 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
product | 3-Fluoro-N-(4-{[2-(4-methylpiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCC(CC2)C)C=C(C1)N1CCCCC1 | C32H34FN5O2
